US07812251B2
(a) Preparation of 4-nonadecylpyridine (1)
Into a 300-mL flask equipped with a mechanical stirrer, N2 inlet, pressure-equalizing addition funnel which is thermostated in oil bath, were added 14.8 g of sodium amide (0.38 mol) and 64.0 mL of 4-methylpyridine (61.1 g, 0.656 mol). The mixture was stirred under N2 for 1 h while a color change to deep red was observed. A 110-mL sample of n-octadecyl chloride (95.0 g; 0.33 mol) was added to the rapidly stirred reaction mixture over a period of 1.5 h. Shortly after addition was begun, the reaction mixture was warmed to 60° C. to prevent solidification and was subsequently stirred overnight at 100° C. The reaction mixture was cooled to room temperature, diluted with 200 mL of chloroform, washed three times with 200 mL of H2O, and reduced to dryness with the rotary evaporator. The resultant dark brown product was vacuum distilled three times at 0.07 mmHg to finally afford 48.8 g of constant-boiling (180° C. (0.07 mmHg)), white, waxy solid (0.141 mol, 43% yield based on n-octadecyl chloride). Anal. Calcd for C24H43N: C, 83.41; H, 12.54; N, 4.05. Found: C, 83.6; H, 12.7; N, 4.0. MS (ESIMS): m/z: 345.3.

reactant | sodium amide | 0.38 mol, 14.8 g | [NH2-].[Na+]
reactant | 4-methylpyridine | 0.656 mol, 64.0 mL, 61.1 g | CC1=CC=NC=C1 | C6H7N
reactant | n-octadecyl chloride | 0.33 mol, 95.0 g | C(CCCCCCCCCCCCCCCCC)Cl | C18H37Cl
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-nonadecylpyridine | 43% yield | C(CCCCCCCCCCCCCCCCCC)C1=CC=NC=C1 | C24H43N
